US03959260
3α-Hydroxy-21-isopropylthio-5α-pregnane-11,20-dione
Propane-2-thiol (1.3 ml.) was added to a warm solution of sodium (0.6 g.) in a mixture of propan-2-ol (25 ml.) and toluene (30 ml.). 21-Bromo-3α-hydroxy-5α-pregnane-11,20 -dione (0.7 g.) was then added and the mixture was gently refluxed for 2 hr. The mixture was then partitioned between water and ether and the organic layer was washed with water, dried (Na2SO4) and evaporated. The residual foam was purified by preparative t.l.c. (CHCl3) to give title compound (0.2 g.) as a white foam, [α]D + 67° (c 1.3).

reactant | Propane-2-thiol | 1.3 ml | CC(C)S | C3H8S
reactant | sodium | 0.6 g | [Na] | Na
reactant | 21-Bromo-3α-hydroxy-5α-pregnane-11,20 -dione | 0.7 g | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C21H31BrO3
solvent | propan-2-ol | 25 ml | CC(C)O | C3H8O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3α-Hydroxy-21-isopropylthio-5α-pregnane-11,20-dione | 0.2 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CSC(C)C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C24H38O3S
